US05358951
2-Butyl-6-(1-hydroxypropyl)-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone
To a suspension of 1.00 g of 2-Butyl-3,4-dihydro-4-oxo-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5yl][1,1'-biphenyl]-4-yl]methyl]-6-quinazolinecarboxaldehyde in 10 ml of tetrahydrofuran, cooled to -78° C. and 2.833 ml of a 1.0M solution of ethylmagnesium bromide rapidly added. The cooling bath is removed and the reaction mixture allowed to warm until a complete solution. The cooling bath is again applied and the reaction mixture cooled to -78° C. and stirred for 0.5 hours. The bath is removed and the reaction mixture allowed to reach room temperature. An aqueous solution of ammonium chloride is added and the reaction mixture extracted with ethyl acetate. The organic layer is dried and concentrated in vacuo to give 0.821 g of the desired product as a solid. FAB mass spec 737 (M+H).

reactant | 2-Butyl-3,4-dihydro-4-oxo-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5yl][1,1'-biphenyl]-4-yl]methyl]-6-quinazolinecarboxaldehyde | 1.00 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=O | C46H38N6O2
reactant | ethylmagnesium bromide | C(C)[Mg]Br
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Butyl-6-(1-hydroxypropyl)-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone | 0.821 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(CC)O | C48H44N6O2
